US07495103B2
To a solution of 2-t-butyl-4-bromophenol (380 g, 1.67 mol) in dichloromethane (1000 mL) was added Et3N (202 g, 2 mol) at room temperature. Methyl chloroformate (155 mL) was added dropwise to the above solution at 0° C. After addition, the mixture was stirred at 0° C. for 2 h., quenched with saturated ammonium chloride solution and diluted with water. The organic layer was separated and washed with water and brine, dried over Na2SO4, and concentrated to provide the crude methyl (2-tert-butyl-4-bromophenyl) carbonate (470 g), which was used without further purification.

reactant | 2-t-butyl-4-bromophenol | 1.67 mol, 380 g | C(C)(C)(C)C1=C(C=CC(=C1)Br)O | C10H13BrO
reactant | Et3N | 2 mol, 202 g | CCN(CC)CC | C6H15N
reactant | Methyl chloroformate | 155 mL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | methyl (2-tert-butyl-4-bromophenyl) carbonate | 470 g | C(OC)(OC1=C(C=C(C=C1)Br)C(C)(C)C)=O | C12H15BrO3
